US08975282B2
Step 5) N-(4-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (100 mg, 0.231 mmol) in THF/DMF (15 mL/0.5 mL) was added Et3N (0.058 mL, 0.462 mmol). The suspension was cooled to 0° C., then a solution of cyclobutanecarbonyl chloride (30 mg, 0.254 mmol) in THF (5 mL) was added to the mixture drop wise over 1 hour. The reaction was stirred at rt for 2 hours, then diluted with EtOAc (20 mL). The mixture was washed with water (25 mL×3), followed by washing with brine (25 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/EtOAc/MeOH (v/v/v)=100/20/1) to give the title compound as a white solid (51 mg, 44%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.231 mmol, 100 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C23H20FN5O3
reactant | Et3N | 0.462 mmol, 0.058 mL | CCN(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.254 mmol, 30 mg | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | THF DMF | 15 mL | C1CCOC1.CN(C)C=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(4-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)-3-fluorophenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 51 mg, 44% | C1(CCC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C28H26FN5O4
